US07211601B2
(2S)-N2(2-furylmethyl)-N1-(3-methoxyphenyl)-4-methylene-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 1-isocyanato-3-methoxybenzene, and 2-furylmethylamine the title compound was obtained in 95% purity by LC/MS. MS(ESI+): m/z=356.0.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 2-furylmethylamine | O1C(=CC=C1)CN | C5H7NO
product | (2S)-N2(2-furylmethyl)-N1-(3-methoxyphenyl)-4-methylene-1,2-pyrrolidinedicarboxamide | O1C(=CC=C1)CNC(=O)[C@H]1N(CC(C1)=C)C(=O)NC1=CC(=CC=C1)OC | C19H21N3O4
